US07351719B2
152) N-[3-chloro-4-(3-diethylamino-propoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-acetamide
Prepared analogously to Example 145 starting from N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z28b) and 3-chloro-4-(3-diethylamino-propoxy)-phenylamine (Z29b).

reactant | N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | BrCCOC1=C(C=C(C=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C17H13BrCl2F3NO3
reactant | 3-chloro-4-(3-diethylamino-propoxy)-phenylamine | ClC=1C=C(C=CC1OCCCN(CC)CC)N | C13H21ClN2O
product | N-[3-chloro-4-(3-diethylamino-propoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-acetamide | ClC=1C=C(C=CC1OCCCN(CC)CC)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C22H25Cl2F3N2O3
